US09108966B2
To a solution of tert-butyl ((5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)methyl)carbamate (400 mg, 0.89 mmol) in THF (60 mL) was added 10% Pd(OH)2C (3 g). The mixture was stirred under H2 atmosphere at rt for 3 hrs. The reaction mixture was filtered and concentrated to afford tert-butyl ((5-((2S,5R)-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)methyl)carbamate as a yellow solid, which was directly used in the next step. ESI-MS (EI+, m/z): 356.1 [M+H]+.

reactant | tert-butyl ((5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | 0.89 mmol, 400 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NN=C(S2)CNC(OC(C)(C)C)=O | C21H27N5O4S
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl ((5-((2S,5R)-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NN=C(S2)CNC(OC(C)(C)C)=O | C14H21N5O4S
